US08008525B2
Ethyl 3,5-difluoro-4-(methoxymethoxy)benzenepropanoate
To a solution of 5-bromo-1,3-difluoro-2-(methoxymethoxy)benzene (4.4 g, 21 mmol), acrolein diethyl acetal (9.4 mL, 62 mmol), tetrabutylammonium chloride (5.7 g, 21 mmol) and diisopropylethylamine (18 mL, 0.10 mol) in N,N-dimethylformamide (40 mL) was added palladium acetate (0.14 g, 0.62 mmol), and the mixture was stirred under argon atmosphere at 90° C. for 18 hours. After the reaction solution was returned to room temperature, water was added thereto, and the reaction mixture was extracted with ethyl acetate. The extract was washed with water, and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=49:1 to 4:1) to give the title compound (2.4 g, yield 42%).

reactant | 5-bromo-1,3-difluoro-2-(methoxymethoxy)benzene | 21 mmol, 4.4 g | BrC=1C=C(C(=C(C1)F)OCOC)F | C8H7BrF2O2
reactant | acrolein diethyl acetal | 62 mmol, 9.4 mL | C(C)OC(C=C)OCC | C7H14O2
reactant | diisopropylethylamine | 0.10 mol, 18 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
catalyst | tetrabutylammonium chloride | 21 mmol, 5.7 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.62 mmol, 0.14 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 3,5-difluoro-4-(methoxymethoxy)benzenepropanoate | 2.4 g, yield 42% | FC=1C=C(C=C(C1OCOC)F)CCC(=O)OCC | C13H16F2O4
